US07361678B2
To a stirred solution of 1-fluoro-4-nitrobenzene (10 mmol) in DMF (20 mL) at rt, solid potassium carbonate (30 mmol) was added followed by addition of 2,4-dichlorophenol (10 mmol) to the reaction mixture and heating to 80° C. until the reaction was complete as indicated by TLC or HPLC. After cooling to rt, the reaction mixture was poured into H2O (100ml), extracted with EtOAc (2×50 mL), washed with H2O (2×50 ml) and brine (50 ml), and dried over sodium sulfate. The solvent was removed in vacuuo to afford the desired 4-(2,4-dichloro-phenoxy)-1-nitrobenzene. The crude product was used for further transformation.

reactant | 1-fluoro-4-nitrobenzene | 10 mmol | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 30 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichlorophenol | 10 mmol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | H2O | 100ml | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(2,4-dichloro-phenoxy)-1-nitrobenzene | ClC1=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC(=C1)Cl | C12H7Cl2NO3
